US06235754B1
Preparation of p-Chloro-α-isopropylbenzyl Alcohol
A 1 M solution of p-chlorophenylmagnesium bromide in diethyl ether (100 mL) is added to a solution of isobutyraldehyde (9.08 mL, 0.1 mol) in diethyl ether at −5° C. After the addition is complete, the reaction mixture is stirred overnight at room temperature, diluted with an ice-water mixture, and acidified with 10% hydrochloric acid. The phases are separated and the aqueous phase is extracted with diethyl ether. The organic phase and extracts are combined, washed sequentially with saturated sodium hydrogen carbonate solution, water and brine, dried over anhydrous sodium sulfate, and concentrated in vacuo to obtain an oil. Column chromatography of the oil using silica gel and a 33% methylene chloride in hexanes solution gives the title product as a colorless oil (14 g) which is identified by NMR spectral analyses.

reactant | p-chlorophenylmagnesium bromide | ClC1=CC=C(C=C1)[Mg]Br
reactant | isobutyraldehyde | 0.1 mol, 9.08 mL | C(C(C)C)=O | C4H8O
reactant | hydrochloric acid | Cl | ClH
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | p-Chloro-α-isopropylbenzyl Alcohol | 14 g | ClC1=CC=C(C(C(C)C)O)C=C1 | C10H13ClO
